Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Erythromycin Base / Haldol
 
Attending: ___
 
Chief Complaint:
"I've been feeling confused and speaking jibberish"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo woman w/ hx of bipolar disorder and possible 
frontotemporal
dementia who presents to ED with trouble speaking, specifically
word finding. Psychiatry asked to evaluate patient for mania.
Patient states that she has been feeling confused for
approximately one month with waxing and waning difficulty
speaking.  She states that she has been at her baseline
behaviorally but has been speaking jibberish at times and having
trouble finding words at time.  This is consistent with the note
from her cognitive neurology evaluation on ___. 

Patient denies recent impulsive or risky behavior, denies racing
thoughts or increased goal-directed behavior.  Does not appear
distractable or show evidence of grandiose thoughts.  She has
been sleeping ___ hours per night but has been very tired 
because
of that.  She describes her mood recently as "good, happy" and
states she has been "very even, in control".  Per OMR, she was
seen in the ___ ED on ___ for evaluation of mania, her lithium
level was 1.2, and she was discharged without psych consult as
had no signs of mania.  However, she states that she was seen by
her therapist and psychiatrist 2 and 3 days ago, respectively,
and both were concerned that she was "fast moving".  She states
that they decided to increase her lithium to 600mg QAM and 300mg
QPM.  

Patient's husband, ___ was contacted for collateral
information. He has been very concerned about increasing
confusion and strange behavior over the past few weeks such as
the pt leaving the phone in the refrigerator or packing
innappropriate items for their upcoming move.  He states that at
times she has been anxious/agitated and pacing though at other
times sedated and groggy related to many recent changes in
medications over a short period of time including addition and
d/c'ing of Risperdal, changing seroquel dosing, d/c'ing
trazodone. 

 
Past Medical History:
Chronic abd pain w/+ black stool for several months
hyperlipidemia
bipolar
hypothyroid
GERD
endometriosis
.
Past Surgical History
Hip replacement in ___
left rotator cuff repair ___
Chole ___

Past Psych History
Pt states she was last hospitalized ___ years ago but has
probably been hospitalized 30 times in the past for mania and
depression. Denied any SA or self harm in the past.  Still 
seeing
same treaters as noted below.

Dx: bipolar disorder.  Per sister, her manic episodes have
involved elevated mood and hyper/busy activity, and they do not
resemble delirium.
Hosp: multiple, including ___ approx ___ ago and
___ (in ___) approx ___ years ago.  Hospitalizations
primarily for mania, not for depression.
SA/SIB: has h/o suicide attempt, per sister, but details unknown
(believes it was OD attempt)
Medications: has tried citalopram 80mg, attempting to taper down
___ feeling like she doesn't need it anymore
Psychiatrist: Dr. ___ MD; ___. ___
Therapist: ___ in ___.

 
Social History:
___
Family History:
Mother died of CHF at ___. Father committed suicide. 1 brother 
and 1 sister who are both healthy. No family history of early 
MI, arrhythmia, cardiomyopathies, or sudden cardiac death; 
otherwise non-contributory. 
 
Physical Exam:
MENTAL STATUS EXAM (USE FULL, DESCRIPTIVE SENTENCES WHERE
APPLICABLE)
     APPEARANCE & FACIAL EXPRESSION: pt appears stated age,
sitting up in ED gurney with street clothes on
     POSTURE: sitting
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS): no abnormal
movements
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE): cooperative
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC, 
ETC.):
slowed, word finding difficulty at times seems to get worse
during conversation
     MOOD: "even"
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.):
constricted, appropriate to context
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.): linear
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.): pt has feeling every now and then that there 
is
someone sitting next to her even though she knows there is not.
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS): denies AH/VH
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF SLEEP,      

APPETITE, ENERGY, LIBIDO): sleep changes and cognitive changes 
as
noted in HPI, no changes in appetite
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT, PLAN):
denies SI/HI
     INSIGHT AND JUDGMENT: fair insight, fair judgment
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT): alert
          ORIENTATION: oriented to person, being in a hospital 
ED
in ___, unsure of date or day of week
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.): unable to
recite MOYB
          MEMORY (SHORT- AND LONG-TERM): ___ reg, ___ recall
          CALCULATIONS: $1.75 = 5 quarters
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE): past two
presidents
          PROVERB INTERPRETATION: "grass is greener" means 
things
on the other side of the fence are better
          SIMILARITIES/ANALOGIES: apples/oranges - fruits

 
Pertinent Results:
___ 10:10PM   GLUCOSE-99 UREA N-14 CREAT-1.0 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-26 ANION GAP-11
___ 10:10PM   LITHIUM-1.0
___ 10:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:10PM URINE  HOURS-RANDOM
___ 10:10PM URINE  UCG-NEGATIVE
___ 10:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:10PM   WBC-10.4 RBC-3.93* HGB-12.8 HCT-35.2* MCV-90 
MCH-32.6* MCHC-36.4* RDW-11.9
___ 10:10PM   NEUTS-72.4* ___ MONOS-4.1 EOS-1.5 
BASOS-0.4
___ 10:10PM   PLT COUNT-262
___ 10:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
___ yo woman w/ hx of bipolar disorder and possible 
frontotemporal dementia who presents to ED with trouble 
speaking, specifically word finding. Psychiatry asked to 
evaluate patient for mania vs different dementia type processes. 
During patient's 6 day admission, patient showed clear evidence 
of some type of process that was causing word-finding 
difficulties, some neuromuscular problems, and tentative sense 
of balance and coordination. 

Patient had an MRI done on ___ at ___, family 
has the report and CD and can follow this up with outpatient 
treaters/neurologists. Patient's medication regiment was changed 
Haldol 1 mg. in the AM, and at lunchtime, and Seroquel 250 mg. 
at night along with Trazadone 50 mg. if she needs it for sleep. 
Patient gets Lorazepam 1 mg BID PRN for anxiety but we also 
added Vistaril 50 mg. as a replacement if patient shows more 
confusion using a benzodizepine. Patient is also receiving 600 
mg. of Lithium and 300 mg at night for bipolar. On discharge 
day, patient was pleasant, memory had improved since admission 
and outpatient treaters were contacted and appointments were 
made for ___.

Patient had neuro-psychiatric testing done on ___.
SUMMARY, FORMULATION, RECOMMENDATIONS: 
Ms. ___ neuropsychological testing performance demonstrated
significant impairments in most aspects of assessed cognitive
domains, most notably including disorientation and impaired
control of information in working memory.  These findings 
suggest
that she is experiencing effects of a partially resolved
delirium, though problems with construction and confrontation
naming suggests an underlying, more stable cognitive disorder
(likely mild dementia or MCI).  Her ability to make well 
informed
decisions at present is compromised.  To the extent that these
findings reflect a delirium, with resolution she is likely to
experience some improvement in cognitive functioning. 

Recommendations:
1.Given Ms. ___ current difficulties with word finding, she
is encouraged to "talk around words" (i.e. circumlocute) in an
effort to allow her to verbally express herself.  She may 
benefit
from assistance with learning how to do this.

2.Ms. ___ should follow up with her behavioral health team to
continue treatment of her bipolar illness, particularly in the
context of her reported plans to move.

3. Follow up neuropsychological testing is recommended once her
mental status has stabilized.  

Thank you for this interesting referral.  Please call
___, Dr. ___ there are any questions 
regarding
the findings or recommendations.  Please see the Summary of Test
Findings attached.

Medical: ___ medical medications were continued. No acute 
medical issues were dealt with during psychiatric admission 
other than dementia.
s/p mitral valve annuloplasty ___
s/p hip replacement ___
s/p rotator cuff replacement ___
s/p cholecystectomy
s/p hysterectomy
hypothyroidism

Legal: ___
Medications on Admission:
 lithium carbonate 600 mg Capsule PO QAM 
2. lithium carbonate 300 mg PO QHS 
3. furosemide 40 mg Tablet PO DAILY 
4. lorazepam 1 mg PO BID PRN
5. levothyroxine 50 mcg PO DAILY 
6. metoprolol tartrate 25 mg PO BID 
7. hydroxyzine HCl 25 mg Tablet PO Q6H as needed for anxiety.
 
Discharge Medications:
1. lithium carbonate 300 mg Capsule Sig: Two (2) Capsule PO QAM 
(once a day (in the morning)).
Disp:*30 Capsule(s)* Refills:*0*
2. lithium carbonate 300 mg Capsule Sig: One (1) Capsule PO QHS 
(once a day (at bedtime)).
Disp:*15 Capsule(s)* Refills:*0*
3. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. lorazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety.
Disp:*30 Tablet(s)* Refills:*0*
5. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
6. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*15 Tablet(s)* Refills:*0*
7. hydroxyzine HCl 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for anxiety.
Disp:*15 Tablet(s)* Refills:*0*
8. haloperidol 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): Please take one pill in the morning and one after lunch.
Disp:*15 Tablet(s)* Refills:*0*
9. quetiapine 50 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*0*
10. quetiapine 200 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
   AXIS I: bipolar disorder

     AXIS II: defer

     AXIS III: GERD, hypothyroidism, r/o frontotemporal lobe 
dementia, r/o Alzheimers Dementia

     AXIS IV: chronic mental illness, multiple medical 
conditions

     AXIS V: 30

 
Discharge Condition:
Patient is alert, oriented and ambulatory
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___